US09085540B2
To a mixture of tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate (860 mg) and N,N-dimethylformamide (30 mL) was added 55% oily sodium hydride (200 mg) under ice-cooling. After stirring for 30 minutes under ice-cooling, 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide (1 g) was added thereto, followed by further stirring for 1 hour under ice-cooling. 55% oily sodium hydride (100 mg) was added thereto, followed by stirring at room temperature for 4 hours, and then 55% oily sodium hydride (100 mg) was added thereto, followed by stirring at room temperature overnight. The reaction mixture was poured into ice water, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and then dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-100:10:1) to obtain tert-butyl (3R)-3-{[5-carbamoyl-3-ethyl-6-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]oxy}pyrrolidine-1-carboxylate (284 mg).

reactant | tert-butyl (3R)-3-hydroxypyrrolidine-1-carboxylate | 860 mg | O[C@H]1CN(CC1)C(=O)OC(C)(C)C | C9H17NO3
reactant | sodium hydride | 200 mg | [H-].[Na+]
reactant | 5-chloro-6-ethyl-3-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazine-2-carboxamide | 1 g | ClC=1N=C(C(=NC1CC)C(=O)N)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C | C24H34ClN7O
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | sodium hydride | 100 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | tert-butyl (3R)-3-{[5-carbamoyl-3-ethyl-6-({3-methyl-4-[4-(4-methylpiperazin-1-yl)piperidin-1-yl]phenyl}amino)pyrazin-2-yl]oxy}pyrrolidine-1-carboxylate | 284 mg | C(N)(=O)C=1N=C(C(=NC1NC1=CC(=C(C=C1)N1CCC(CC1)N1CCN(CC1)C)C)O[C@H]1CN(CC1)C(=O)OC(C)(C)C)CC | C33H50N8O4
